US09422271B2
To a solution of 2-phenylpyrimidin-4-ol (1.0 g, 5.8 mmol, 1 eq) in acetic acid (20 mL), was added NIS (1.3 g, 5.8 mmol, 1 eq), then heated at 50° C. for 1 h. The reaction solution was concentrated in vacuo and the residue was purified by silica gel chromatography (CH2Cl2/MeOH=97/3 as eluent) to obtain 5-iodo-2-phenylpyrimidin-4-ol (1.2 g, 69.8%) as a white solid. LC-MS (m/z): 298.9 [M+H]+. 1H NMR (400 MHz, DMSO-d6): δ 7.35-7.51 (m, 3H), 8.10-8.18 (m, 2H), 8.43 (s, 1H), 13.32 (s, 1H).

reactant | 2-phenylpyrimidin-4-ol | 5.8 mmol, 1.0 g, 1 eq | C1(=CC=CC=C1)C1=NC=CC(=N1)O | C10H8N2O
reactant | NIS | 5.8 mmol, 1.3 g, 1 eq | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 5-iodo-2-phenylpyrimidin-4-ol | 1.2 g, 69.8% | IC=1C(=NC(=NC1)C1=CC=CC=C1)O | C10H7IN2O
